US06172057B2
2-[(2-Hydroxy-ethyl)-(3-phenyl-propyl)-amino]-ethanol was prepared according to the general method as outlined in example 83. Starting from diethanolamine (15.8 g, 151 mmol). and 1-bromo-3-phenylpropane (20 g, 101 mmol). Yield 21.31 g, (95%); yellow oil; MS: 223.9 (M+H)+.

reactant | diethanolamine | 151 mmol, 15.8 g | N(CCO)CCO | C4H11NO2
reactant | 1-bromo-3-phenylpropane | 101 mmol, 20 g | BrCCCC1=CC=CC=C1 | C9H11Br
product | 2-[(2-Hydroxy-ethyl)-(3-phenyl-propyl)-amino]-ethanol | OCCN(CCO)CCCC1=CC=CC=C1 | C13H21NO2
